* C:\Users\ewang\Documents\GitHub\circuits-tone-generator\symboltest.asc
XX1 Vin NC_01 Vb Vdd currentstarvedinverter
Vb Vb 0 .4
Vdd Vdd 0 5
Vin Vin 0 PULSE(0 5 0 1p 1p 1m 2ms 5)

* block symbol definitions
.subckt currentstarvedinverter Vin Vout Vb Vdd
XMb N001 Vb 0 nmos3
XM5 Vdd N001 N001 pmos3
XM3 Vout Vin N002 pmos3
XM4 N002 N001 Vdd pmos3
XM1 N003 Vb 0 nmos3
XM2 Vout Vin N003 nmos3
.include engr2420.sub
current starved inverter
.ends currentstarvedinverter

.tran 0 10ms 0ms 1ms
.backanno
.end
