.subckt CurrentStarvedInverter Vb Vdd Vin Vout
Mb N001 Vb 0 
M1 N003 Vb 0  
M2 Vout Vin N003 
M3 Vout Vin N002 
M4 N002 N001 Vdd 
M5 N001 N001 Vdd
.ends